datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[S:3][H:10])([H:4])([H:5])[H:6].[S:11]([C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:20])[H:21])[H:19]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3][H:10])[H:20])([H:4])([H:5])[H:6].[S:11]([C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])[H:21])[H:19],1.2552
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[S:9]=[C:10]([S:11][H:13])[H:12]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:13])([H:4])[H:5].[S:9]=[C:10]([S:11])[H:12],0.4184
[C-:0]#[S+:1].[C:2]([H:3])([H:4])[H:5]>>[C:0](=[S:1])[C:2]([H:3])([H:4])[H:5],10.2926
[O:0]=[C:1]([O:2][H:4])[H:3]>>[O+:0]#[C-:1].[O:2]([H:3])[H:4],253.00648
[C:0]([C:1]([C:2]([C:3]([C:4]([H:16])([H:17])[H:18])([O:5][O:6][H:19])[H:15])([H:13])[H:14])([O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:16])([H:17])[H:18])([O:5][O:6][H:19])[H:15])[H:14])([O:7][O:8][H:13])[H:12])([H:9])([H:10])[H:11],123.428
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:19]([C:18](=[C:17]([H:21])[H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:7],55.4798
[C:0]([C:1]([N:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0]([C:1](=[N:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9]([H:10])([H:11])[H:12],-4.656792
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19],72.7179
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](#[C:15][C:16]([C:17]([H:20])([H:21])[H:22])[H:19])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:16]([C:15]#[C:14][H:18])([C:17]([H:20])([H:21])[H:22])[H:19])[H:6],37.8652
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([O:7][O:8][H:19])[H:13])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([O:7][O:8][H:19])[H:13])([H:11])[O:2]1.[O:3][H:12],44.7688
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](#[C:6][C:7]([C:8]([H:11])([H:12])[H:13])[H:10])[H:9]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6]#[C:5][H:9])([C:8]([H:11])([H:12])[H:13])[H:10],87.4456
[C:0]([C:1](=[C:2]([C:3](=[C:4]([C:5]1=[C:6]([H:16])[C:7]([H:17])([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3](=[C:4]([C:5]1=[C:6]([H:16])[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])([H:11])[H:17],141.0008
[C:0]([H:1])([H:2])([H:3])[H:4].[S:5]=[C:6]([C:7]([S:8][H:11])[H:10])[H:9]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6](=[S:5])[H:9])([S:8][H:11])[H:10],151.461
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](=[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:20]([C:19](=[C:18]([H:23])[H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:11])[H:10],43.3044
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[C:10]([c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])[H:21])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:9]([C:8]([H:17])([H:18])[H:19])([C:10]([c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])[H:21])[H:20])([H:3])[H:4],7.15464
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])[C:5]1([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22],48.4089
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[C:16](=[O:17])[H:18]>>[C-:16]#[O+:17].[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])([H:6])[H:18],0.0
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([C:10](=[C:11]([H:19])[H:20])[H:18])[C:12](=[C:13]([H:22])[H:23])[H:21])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:9]([C:8]([C:7](=[C:6]([H:14])[H:15])[H:16])[H:17])([C:10](=[C:11]([H:19])[H:20])[H:18])[C:12](=[C:13]([H:22])[H:23])[H:21])[H:3],36.7774
